US08609804B2
A modification of the published procedures of Courtot and Lin in Bull. Soc. Chim. Fr. 1931, 49, 1047 was used. Inside a glove box, a 500 mL round-bottom flask equipped with a reflux condenser, stirring bar, and gas inlet was charged with 2,5-dibromobenzenesulfonic acid, sodium salt (73 g, 0.216 moles), activated copper bronze (27 g, 0.43 moles), and DMAc (200 mL). The mixture was heated to 120° C. overnight under nitrogen. The mixture was poured into water (1 L) and the solid removed by vacuum filtration. The filtrate was evaporated and the residue dried at 100° C. under vacuum. The solids were recrystallized from acetonitrile/water (10:1) after treating with decolorizing carbon and dried under vacuum at 60-150° C. to give 48.13 g (86% yield) of 4,4′-dibromobiphenyl-2,2′-disulfonic acid, sodium salt. 1H NMR (DMSO-d6): 7.19 (d, 8.3 Hz, 2H), 7.42 (dd, 8.3 and 2.1 Hz, 2H), 7.96 (d, 2.1 Hz, 2H).

reactant | 2,5-dibromobenzenesulfonic acid | BrC1=C(C=C(C=C1)Br)S(=O)(=O)O | C6H4Br2O3S
reactant | sodium | 0.216 moles, 73 g | [Na] | Na
reactant | DMAc | 200 mL | CC(=O)N(C)C | C4H9NO
catalyst | copper bronze | 0.43 moles, 27 g | [Cu] | Cu
solvent | water | 1 L | O | H2O
product | 4,4′-dibromobiphenyl-2,2′-disulfonic acid | 48.13 g, 86% yield | BrC=1C=C(C(=CC1)C=1C(=CC(=CC1)Br)S(=O)(=O)O)S(=O)(=O)O | C12H8Br2O6S2
